US04558043
A solution of 1.4 g (5.2 mmole) of 5-chloro-3-hydroxy-3-methyl-6-(piperidin-1-yl)-2,3-dihydrobenzofuran in 20 ml of acetic acid/5N hydrochloric acid 1:1 is maintained at 85° for one hour. The reaction mixture is concentrated in a vacuum rotary evaporator, water is added to the residue and the whole is adjusted to pH 7 with saturated sodium carbonate solution and extracted with methylene chloride. The organic phases are washed with water, combined, dried over sodium sulphate and concentrated in a vacuum rotary evaporator. Chromatography over silica gel using chloroform as eluant yields 5-chloro-3-methyl-6-(piperidin-1-yl)-benzofuran which, after recrystallisation from petroleum ether, melts at 82°-84°.

reactant | 5-chloro-3-hydroxy-3-methyl-6-(piperidin-1-yl)-2,3-dihydrobenzofuran | 5.2 mmole, 1.4 g | ClC=1C(=CC2=C(C(CO2)(C)O)C1)N1CCCCC1 | C14H18ClNO2
solvent | acetic acid | 5N, 20 ml | C(C)(=O)O | C2H4O2
product | 5-chloro-3-methyl-6-(piperidin-1-yl)-benzofuran | ClC=1C(=CC2=C(C(=CO2)C)C1)N1CCCCC1 | C14H16ClNO
